US05159082
3.28 g (20 mmol) of sodium benzenesulfinate, 2.36 g (10 mmol) of o-dibromobenzene, 0.0255 g (0.1 mmol) of palladium acetate, 0.0478 g (0.12 mmol) of 1,2-bis(diphenylphosphino)-ethane, 6.73 g (120 mmol) of calcium oxide and 60 ml of N-methyl-2-pyrrolidone were placed in a 100 ml round bottom flask and reacted at 150° C. in a nitrogen gas stream for 8 hours. After the completion of the reaction, the reaction mixture was analyzed by means of high performance liquid chromatography. The analysis showed that 4.5 mmol (yield 45%) of o-terphenyl was formed in the reaction mixture solution.

reactant | sodium benzenesulfinate | 20 mmol, 3.28 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | o-dibromobenzene | 10 mmol, 2.36 g | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | calcium oxide | 120 mmol, 6.73 g | [O-2].[Ca+2]
catalyst | palladium acetate | 0.1 mmol, 0.0255 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,2-bis(diphenylphosphino)-ethane | 0.12 mmol, 0.0478 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
solvent | N-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | o-terphenyl | 4.5 mmol, yield 45% | C1(=CC=CC=C1)C=1C(=CC=CC1)C1=CC=CC=C1 | C18H14
